Name:  ___                  Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: NEUROLOGY
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___
 
Chief Complaint:
Seizure
 
Major Surgical or Invasive Procedure:
None
 
History of Present Illness:
Ms. ___ is an ___ woman with a past medical 
history of breast cancer (___), HTN, HLD, osteoporosis who 
presents today with seizure x 2.

She had a recent episode of GIB, and was found to have 
diverticulosis as well as polyps. These were not biopsied the 
first time and so she is currently undergoing prep with 
magnesium citrate for a second colonoscopy with biopsy. She was 
taking the prep all day, which caused diarrhea. She went to bed 
tonight, with her daughter sleeping next to her. At 2am, her 
daughter woke to her shaking, all limbs. This lasted less than 3 
minutes, and then the patient was confused for about 30 minutes 
afterwards. She was brought to the emergency room. In the ED, 
basic lab workup revealed mild hypochloremic hyponatremia to 
132, slight ___ on CKD, and baseline anemia.

She had a second seizure, witnessed, with no head turn or gaze 
deviation, clonic in all limbs for one minute which terminated 
with 1mg ativan. Neurology was then called. Per the family, she 
had returned to her baseline in between events.

The patient was recently diagnosed with a "mild dementia" per 
the daughter. She had neuropsychiatric testing here showing 
"significant cognitive problems affecting new learning and 
retention as well as processing speed and multitasking" 
indicative of Alzheimer's vs. vascular type dementia.

The daughter reports no prior seizure history. She does say, 
however, that the patient has had "absence" episodes once every 
couple of months, where she will have a far-off look and repeat 
one phrase over and over, slurred, this will last ___ minutes.

Her breast cancer was treated with left mastectomy in ___ and 
tamoxifen for several years. She had no metastatic disease per 
daughter.

Her colonoscopy was scheduled for ___ at 1pm.

Review of systems not obtained due to altered mental status.

 

 
Past Medical History:
- HTN                                                   
- Asthma
- COPD
- Osteoporosis
- Kyphoscoliosis
- Compression fractures
- Spondylolistesis
- Pelvic fracture
- Osteoarthritis
- BCC
- Breast cancer s/p mastectomy in ___ (left)
- Gout                       
- Bilateral cataract surgery

 
Social History:
___
Family History:
Family history of stroke and hypertension.  

 
Physical Exam:
Physical Exam:
Vitals: 98.1 87 147/72 16 100%
General: sleeping, NAD.
HEENT: DMM. No icterus
Neck: Supple
Pulmonary: Lungs CTA bilaterally
Cardiac: RRR
Abdomen: soft
Extremities: No edema
Skin: no rashes or lesions noted

Neurologic:

-Mental Status: Sleepy, arouses to repetitive stimuli, looks to
both sides, speaks ___ words in ___ and actively tries to
ward examiner/nurse away.

-Cranial Nerves:
I: Olfaction not tested.
II: PERRL 6 to 3mm and brisk. Does not blink reliably to threat
III, IV, VI: EOMI without nystagmus. Normal saccades.
V: +corneals per eyelash testing
VII: No obvious facial droop
VIII: Responds to voice
IX, X: Unable to test
XI: Turns head to both sides.
XII: Unable to test.

-Motor: Normal bulk, tone throughout. No adventitious movements,
such as tremor or myoclonus noted. She moves all extremities
equally at least antigravity, withdraws briskly and localizes to
noxious stimuli.

-Sensory: W/d to nox throughout.

-DTRs: 3+ throughout, toes upgoing bilaterally.

-Coordination: No tremor or nystagmus noted, unable to test for
dysmetria.

-Gait: Not tested

 
Pertinent Results:
___ 03:20AM BLOOD WBC-10.0 RBC-3.78* Hgb-9.5* Hct-29.3* 
MCV-78*# MCH-25.1*# MCHC-32.4 RDW-15.5 Plt ___
___ 03:20AM BLOOD Neuts-70.8* ___ Monos-7.6 Eos-0.5 
Baso-0.2
___ 03:20AM BLOOD Glucose-160* UreaN-30* Creat-1.5* Na-132* 
K-3.8 Cl-93* HCO3-24 AnGap-19
___ 09:05AM BLOOD ALT-14 AST-45* LD(LDH)-179 AlkPhos-50 
TotBili-0.3
___ 09:05AM BLOOD Albumin-3.6 Calcium-9.3 Phos-2.5* Mg-2.6 
Iron-13*
___ 03:34AM BLOOD Lactate-4.1*
___ 06:30AM URINE Color-Straw Appear-Clear Sp ___
___ 06:30AM URINE Blood-SM  Nitrite-NEG Protein-NEG 
Glucose-NEG Ketone-NEG Bilirub-NEG Urobiln-NEG pH-7.0 Leuks-NEG
___ 06:30AM URINE RBC-<1 WBC-<1 Bacteri-FEW Yeast-NONE 
Epi-0

IMAGING:
MR ___ (___):
IMPRESSION:  
  
There is no evidence of hemorrhage, infarction or mass. The 
anterior subluxation of C3 upon C4 with likely deformity at 
cervical cord. Prominent pannus at C2 encroaching on the foramen 
magnum but does not appear to compress the cervicomedullary 
junction. 

 
Brief Hospital Course:
___ presented to the hospital after a seizure at 
home. Here in the emergency department she had a second 
generalized tonic-clonic seizure. She was loaded with 
levetiracetam. She had no further evidence of seizures. On the 
second day after admission when she was more alert she was noted 
to have weakness of the left lower extremity in an upper motor 
neuron pattern. A workup for the etiology of her seizures was 
notable for MRI with evidence of small vessel disease and global 
atrophy but no acute stroke or hemorrhage. She was mildly 
hyponatremic to 132 in the context of her colonoscopy prep. She 
had no evidence of meningoencephalitis. Her seizures were 
thought to be most consistent with etriology of her small vessel 
disease, possibly precipitated by sleep deprivation in the 
context of her colonoscopy prep. She was continued on 
levetiracetam and will follow up in Neurology clinic.

On admission she was noted to have consolidation in the left 
lower lobe of her lung. Given her seizures she was treated 
empirically for aspiration pneumonia. She remained afebrile and 
had no hypoxia and leukocytosis during her admission. She will 
complete a five day course of clindamycin. 

The gastroenterology service was notified of her admission and 
her colonoscopy was cancelled. She will follow up as an 
outpatient.
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Albuterol Inhaler 1 PUFF IH Q6H:PRN wheezing 
2. Alendronate Sodium 70 mg PO QSUN 
3. Allopurinol ___ mg PO DAILY 
4. Calcium Carbonate 600 mg PO BID 
5. Pravastatin 10 mg PO DAILY 
6. Vitamin D 1000 UNIT PO DAILY 
7. Captopril 25 mg PO QID 
8. Senna 8.6 mg PO BID:PRN constipation 
9. Docusate Sodium 100 mg PO BID 

 
Discharge Medications:
1. Alendronate Sodium 70 mg PO QSUN 
2. Allopurinol ___ mg PO DAILY 
3. Calcium Carbonate 600 mg PO BID 
4. Captopril 25 mg PO QID 
5. Pravastatin 10 mg PO DAILY 
6. Vitamin D 1000 UNIT PO DAILY 
7. Clindamycin 450 mg PO Q8H 
RX *clindamycin HCl 150 mg 3 capsule(s) by mouth Q8 Disp #*12 
Capsule Refills:*0
8. LeVETiracetam 750 mg PO BID 
RX *levetiracetam 750 mg 1 tablet(s) by mouth twice a day Disp 
#*60 Tablet Refills:*3
9. Albuterol Inhaler 1 PUFF IH Q6H:PRN wheezing 
10. Docusate Sodium 100 mg PO BID 
11. Senna 8.6 mg PO BID:PRN constipation 

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
seizure

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
You were admitted to the hospital after having two seizures. We 
have given you an anti-epileptic medication, levetiracetam, and 
there was no sign of any more seizures. We looked for the cause 
of these seizures. Your sodium level was low but we do not think 
they were low enough to cause the seizures. You had an MRI which 
did not show any sign of a stroke or of bleeding in the ___. 
However, it did show evidence of small vessel disease in the 
___ which can serve as an epileptic focus. We believe that 
this, in combination with sleep deprivation during your bowel 
prep, is the cause of these seizures. We are discharging you 
with the levetiracetam. You will continue to take this 
medication for the foreseeable future. We do not think that an 
EEG would be useful at this time but could be considered in a 
few months.

When you were admitted to the hospital we noticed that you had 
an abnormality in your chest x-ray which could be caused by 
aspiration during your seizure. We treated you for aspiration 
pneumonia with clindamycin. You are almost done with the course 
of treatment. Clindamycin can predispose you to c difficele 
overgrowth of the bowel so if you have diarrhea and fever at 
home you should talk to your primary care doctor.

You should follow up with your gastroenterologist regarding your 
colonoscopy.
 
Followup Instructions:
___